US08431563B2
A 500-mL round-bottomed flask was charged with di-tert-butyl (2R)-2-((2-methylpropyl)carbamoyl)-1,4-piperazinedicarboxylate (1.77 g, 4.60 mmol), BH3.THF (1.0 M in THF, 13.8 mL, 13.8 mmol, Sigma-Aldrich, St. Louis, Mo.) and THF (60 mL). The reaction mixture was heated at 50° C. for 12 h. The mixture was allowed to cool to room temperature and then MeOH was added until the bubbling ceased. The reaction mixture was concentrated and the crude product was purified by silica gel chromatography (100 g of silica gel, 0 to 10% iPrOH (with 10% NH4OH) in CHCl3) to obtain di-tert-butyl (2S)-2-(((2-methylpropyl)amino)methyl)-1,4-piperazinedicarboxylate (0.939 g) as a clear oil which solidified upon standing.

reactant | di-tert-butyl (2R)-2-((2-methylpropyl)carbamoyl)-1,4-piperazinedicarboxylate | 4.60 mmol, 1.77 g | CC(CNC(=O)[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C19H35N3O5
reactant | BH3.THF | 13.8 mmol, 1.0 M, 13.8 mL | B.C1CCOC1
reactant | THF | 60 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | di-tert-butyl (2S)-2-(((2-methylpropyl)amino)methyl)-1,4-piperazinedicarboxylate | 0.939 g | CC(CNC[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C19H37N3O4
